US03956492
7-Bromo-5-(2'-chloro-phenyl)-1,3-dihydro-3-(morpholino-methylene)-2H- 1,4-benzodiazepin-2-one by method A
A mixture consisting of 5 gm of 7-bromo-5-(2'-chloro-phenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one and 17 ml of morpholino-diethoxy-methane was heated for 90 minutes at 140°C, while stirring, and the reaction mixture was then allowed to cool. The cool product was admixed with 150 ml of petroleum ether (b.p. 60°-80°C), the mixture was briefly brought to the boiling point, allowed to cool, and the crystalline substance which had separated out was collected by vacuum filtration and recrystallized from isopropanol, yielding the compound named in the heading, which decomposed slowly between 156° and 185°C.

reactant | 7-bromo-5-(2'-chloro-phenyl)-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 5 gm | BrC=1C=CC2=C(C(=NCC(N2)=O)C2=C(C=CC=C2)Cl)C1 | C15H10BrClN2O
reactant | morpholino-diethoxy-methane | 17 ml | O1CCN(CC1)C(OCC)OCC | C9H19NO3
product | 7-Bromo-5-(2'-chloro-phenyl)-1,3-dihydro-3-(morpholino-methylene)-2H- 1,4-benzodiazepin-2-one | BrC=1C=CC2=C(C(=NC(C(N2)=O)=CN2CCOCC2)C2=C(C=CC=C2)Cl)C1 | C20H17BrClN3O2
